US08183382B2
3. Synthesis of 2-isopropylsulphinylbenzaldehyde
A solution of 2-(isopropylthio)benzaldehyde (0.33 g, 1.83 mmol) in dichloromethane (10 ml) was admixed with aqueous KHCO3 solution (1.18 g in 10 ml of H2O). With vigorous stirring, a solution of bromine (0.310 g, 1.93 mmol) in dichloromethane (1.5 ml) was added dropwise. After continuing to stir for 20 min, a spatula-tip of Na2SO3 was added, and the organic phase was removed, washed with saturated NaCl solution, dried over MgSO4 and filtered, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (3:1 to 1:1 hexane:ethyl acetate). The product precipitated out as a yellowish oil. Yield 0.304 g (85%).

reactant | 2-(isopropylthio)benzaldehyde | 1.83 mmol, 0.33 g | C(C)(C)SC1=C(C=O)C=CC=C1 | C10H12OS
reactant | bromine | 1.93 mmol, 0.310 g | BrBr | Br2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 2-isopropylsulphinylbenzaldehyde | C(C)(C)S(=O)C1=C(C=O)C=CC=C1 | C10H12O2S
